US05084463
Step 3) Preparation of 6-Amino-N-[(4-aminophenoxy)propyl]-N-methyl-2-quinoline methanamine
N-Methyl-6-nitro-N-[(4-nitrophenoxy)propyl]-2-quinoline methanamine (2.60 g, 6.57 mmol) was dissolved in ethanol (170 mL) containing PtO2 (0.39 g). The mixture was charged with H2 (g) (1 atm), stirred for 4 hours, and filtered through a pad of solka floc. The filtrate was concentrated to afford 2.18 g of product as a yellow oil that was used directly without purification.

reactant | N-Methyl-6-nitro-N-[(4-nitrophenoxy)propyl]-2-quinoline methanamine | 6.57 mmol, 2.60 g | CN(CC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-])CCCOC1=CC=C(C=C1)[N+](=O)[O-] | C20H20N4O5
solvent | ethanol | 170 mL | C(C)O | C2H6O
catalyst | PtO2 | 0.39 g | O=[Pt]=O
product | 6-Amino-N-[(4-aminophenoxy)propyl]-N-methyl-2-quinoline methanamine | 2.18 g | NC=1C=C2C=CC(=NC2=CC1)CN(C)CCCOC1=CC=C(C=C1)N | C20H24N4O
